US07939666B2
L-leucine cyclopentyl ester.
TsOH salt (7.98 g, 21.51 mmol) was dissolved in THF (40 ml) and triethylamine (6 ml, 21.5 mmol) added. 4-Nitrobenzoyl chloride (4 g, 21.5 mmol) was added portionwise with cooling, ice bath. The reaction was stirred at room temperature for 16 h before evaporation to dryness. The residue was dissolved in DCM (100 ml) and washed with saturated sodium hydrogen carbonate (3×100 ml), 1 M HCl (3×100 ml) and brine, dried (Na2SO4), and the solvent removed in vacuo. to give the required product 5.25 g (70% yield) which was used in the next step without further purification, LCMS purity 100%, m/z 349 [M++H]+

reactant | TsOH | 21.51 mmol, 7.98 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | triethylamine | 21.5 mmol, 6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-Nitrobenzoyl chloride | 21.5 mmol, 4 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | L-leucine cyclopentyl ester | 5.25 g, 70% yield | C1(CCCC1)OC([C@@H](N)CC(C)C)=O | C11H21NO2
